US07196219B2
4-Aminophenylboronic acid by Grignard reaction on N,N-bis(trimethylsilyl)-4-bromoaniline 10.0 g (58.1 mmol) of 4-bromoaniline were dissolved in 200 ml of triethylamine and admixed with 25 ml (130 mmol) of trimethylsilyl trifluoromethanesulfonate. The mixture was heated to reflux for 8 h. The reaction mixture was concentrated and the crude product distilled under high vacuum. 11.9 g (37.8 mmol, 65%) of N,N-bis(trimethylsilyl)-4-bromoaniline were obtained.

reactant | 4-Aminophenylboronic acid | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | trimethylsilyl trifluoromethanesulfonate | 130 mmol, 25 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | triethylamine | 200 ml | C(C)N(CC)CC | C6H15N
product | N,N-bis(trimethylsilyl)-4-bromoaniline | 37.8 mmol, 11.9 g, 65% | C[Si](N(C1=CC=C(C=C1)Br)[Si](C)(C)C)(C)C | C12H22BrNSi2
